US07838524B2
Step 2: Preparation of 4-(5-amino-3-tert-butyl-pyrazol-1-yl)-2-methyl-N-(2-morpholin-4-yl-ethyl)benzene sulfonamide
To a solution of 4-(N′-benzhydrylidene-hydrazino)-2-methyl-N-(2-morpholin-4-yl-ethyl)-benzene sulfonamide (1.00 g, 2.09 mmol) and 4,4-dimethyl-3-oxopentanenitrile (392 mg, 3.13 mmol, 1.5 eq) in anhydrous ethanol (10.5 mL, 0.2 M) was added p-toluenebenzene sulfonic acid (402 mg, 4.18 mmol, 2.0 eq), and the reaction mixture was stirred at reflux under nitrogen. After 18 h, concentrated HCl (2 mL) was added and the reaction mixture was stirred at reflux under nitrogen for an additional 4 h. The reaction mixture was cooled to room temperature and concentrated at reduced pressure. The residue was partitioned between EtOAc (500 mL) and aqueous saturated NaHCO3 solution (300 mL). The organic layer was washed with water and brine, dried over Na2SO4, and concentrated at reduced pressure. The residue was purified by MPLC (70% to 90% EtOAc/hexane) to give 799 mg (91%) of the desired product. 1H-NMR (DMSO-d6) δ 7.85 (d, J=8.4 Hz, 1H), 7.61 to 7.55 (m, 3H), 5.40 (s, 1H), 5.38 (broad s, 2H), 3.46 (t, J=4.5 Hz, 4H), 2.88 (q, J=6.0 Hz, 2H), 2.60 (s, 3H), 2.27 to 2.18 (m, 6H), 1.20 (s, 9H); MS LC-MS [M+H]+=422, RT=1.95 min.

reactant | 4-(N′-benzhydrylidene-hydrazino)-2-methyl-N-(2-morpholin-4-yl-ethyl)-benzene sulfonamide | 2.09 mmol, 1.00 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)=NNC1=CC(=C(C=C1)S(=O)(=O)NCCN1CCOCC1)C | C26H30N4O3S
reactant | 4,4-dimethyl-3-oxopentanenitrile | 3.13 mmol, 392 mg, 1.5 eq | CC(C(CC#N)=O)(C)C | C7H11NO
reactant | HCl | 2 mL | Cl | ClH
solvent | ethanol | 0.2 M, 10.5 mL | C(C)O | C2H6O
product | 4-(5-amino-3-tert-butyl-pyrazol-1-yl)-2-methyl-N-(2-morpholin-4-yl-ethyl)benzene sulfonamide | 799 mg, 91% | NC1=CC(=NN1C1=CC(=C(C=C1)S(=O)(=O)NCCN1CCOCC1)C)C(C)(C)C | C20H31N5O3S
